US09388161B2
A 100-mL, round-bottom flask was charged with 2-chloro-7H-purine (0.200 g, 1.29 mmol), toluene (20 mL), p-toluene sulfonic acid (0.011 g, 0.06 mmol), 3,4-dihydro-2H-pyran (0.328 g, 3.90 mmol), and the resulting solution stirred for 2 h at 80° C. After cooling to room temperature, the reaction mixture was concentrated under vacuum. The residue was purified by column chromatography on silica gel (eluting 1:5, with ethyl acetate/petroleum ether) to afford 2-chloro-7-(tetrahydro-2H-pyran-2-yl)-7H-purine (0.245 g, 79%) as brown oil. MS (ESI, pos. ion) m/z 239 [M+H]+.

reactant | 2-chloro-7H-purine | 1.29 mmol, 0.200 g | ClC1=NC=C2NC=NC2=N1 | C5H3ClN4
reactant | 3,4-dihydro-2H-pyran | 3.90 mmol, 0.328 g | O1CCCC=C1 | C5H8O
catalyst | p-toluene sulfonic acid | 0.06 mmol, 0.011 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-7-(tetrahydro-2H-pyran-2-yl)-7H-purine | 0.245 g, 79% | ClC1=NC=C2N(C=NC2=N1)C1OCCCC1 | C10H11ClN4O
